US08357703B2
b) 3-Butyl-isoxazole-4-carboxylic acid
To a suspension of (E and/or Z)-3-butyl-isoxazole-4-carboxylic acid ethyl ester (10.0 g, 51 mmol) in THF (100 mL) was added a solution of lithium hydroxide monohydrate (4.25 g, 101 mmol) in water (100 mL) and then methanol (100 mL) added and the resulting mixture stirred at room temperature for 1 h. The mixture was acidified to pH 1 with HCl (2 N) and the resulting mixture extracted with ethyl acetate. The combined organic layers were then washed with water and brine, dried over sodium sulphate, filtered and evaporated to afford the title compound (8.33 g, 97%) which was obtained as an off white solid. MS: m/e=168.1 [M−H]+.

reactant | 3-butyl-isoxazole-4-carboxylic acid ethyl ester | 51 mmol, 10.0 g | C(C)OC(=O)C=1C(=NOC1)CCCC | C10H15NO3
reactant | lithium hydroxide monohydrate | 101 mmol, 4.25 g | O.[OH-].[Li+]
reactant | methanol | 100 mL | CO | CH4O
reactant | HCl | 2 N | Cl | ClH
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | water | 100 mL | O | H2O
product | 3-Butyl-isoxazole-4-carboxylic acid | 8.33 g, 97% | C(CCC)C1=NOC=C1C(=O)O | C8H11NO3
